US06887896B1
(2Z)-3-(4-Ethyl-7-methoxy-2,2-dimethyl-2H-chromen-6-yl)-but-2-en-1-ol (Compound 22)
A solution of 6-bromo-4-ethyl-7-methoxy-2,2-dimethyl-2H-chromene (Compound 13,200 mg, 0.67 mmol), bis(pinacolato)diboron (254 mg, 1.0 mmol), and potassium acetate (198 mg, 2.0 mmol) in N,N-dimethylformamide (10 mL) was purged with argon for 15 min. The reaction mixture was then treated with [1,1′-bis(disphenylphosphino)-ferrocene]dichloropalladium(1) (1:1 complex with dichloromethane, 50 mg) and purged with argon for another 5 min. The reaction was continuously stirred at 80° C. for 4 days under argon. After the reaction was cooled to room temperature, the boronic ester mixture was treated with 3-iodo-but-2E-en-1-ol (U.S. Pat. No. 6,147,224, 266 mg, 1.34 mmol), [1,1′-bis(disphenylphosphino)ferrocene]dichloropalladium(II) (1:1 complex with dichloromethane, 50 mg) and 2 M sodium carbonate (1.3 mL, 2.6 mmol) in N,N-dimethylformamide (2 mL). After heating the reaction mixture to 50° C. for 24 h, the mixture was cooled to room temperature and extracted with ethyl acetate. The combined organic layers were washed with brine, dried over Na2SO4, and concentrated in vacuo. Purification by flash column chromatography (silica gel, 10 to 20% ethyl acetate in hexane) yielded the title compound as a yellow solid.

reactant | 6-bromo-4-ethyl-7-methoxy-2,2-dimethyl-2H-chromene | 0.67 mmol, 13,200 mg | BrC=1C=C2C(=CC(OC2=CC1OC)(C)C)CC | C14H17BrO2
reactant | bis(pinacolato)diboron | 1.0 mmol, 254 mg | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
reactant | potassium acetate | 2.0 mmol, 198 mg | C(C)(=O)[O-].[K+]
reactant | sodium carbonate | 2.6 mmol, 2 M, 1.3 mL | C([O-])([O-])=O.[Na+].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 2 mL | CN(C=O)C | C3H7NO
product | (2Z)-3-(4-Ethyl-7-methoxy-2,2-dimethyl-2H-chromen-6-yl)-but-2-en-1-ol | C(C)C1=CC(OC2=CC(=C(C=C12)\C(=C/CO)\C)OC)(C)C | C18H24O3
